US07825256B2
2-[(Benzo[1,3]dioxol-5-ylmethyl)-carbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (278 mg, 0.80 mmol) was dissolved in DCM:TFA (1:1, 6 mL) and stirred at room temperature for 3 hours. After this period, the solution was concentrated down under vacuum. The crude material was diluted in DCM (50 mL) and washed with 1M NaOH (aq) (50 mL) to afford the crude residue. The crude product was purified by Flash chromatography (0-10% methanol/DCM gradient) to afford 85.1 mg (43%) of pyrrolidine-2-carboxylic acid (benzo[1,3]dioxol-5-ylmethyl)-amide. [M+H]+ 249.08.

reactant | 2-[(Benzo[1,3]dioxol-5-ylmethyl)-carbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.80 mmol, 278 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C(NCC1=CC2=C(OCO2)C=C1)=O | C18H24N2O5
solvent | DCM TFA | 6 mL | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | pyrrolidine-2-carboxylic acid (benzo[1,3]dioxol-5-ylmethyl)-amide | 85.1 mg, 43% | O1COC2=C1C=CC(=C2)CNC(=O)C2NCCC2 | C13H16N2O3
